US04098791
In the manner given in Example 2, 4-morpholinecarbonitrile is treated with sodium methoxide in methanol to give methyl 4-morpholinecarboximidate.

reactant | 4-morpholinecarbonitrile | N1(CCOCC1)C#N | C5H8N2O
reactant | sodium methoxide | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | methyl 4-morpholinecarboximidate | N1(CCOCC1)C(OC)=N | C6H12N2O2
